US07238813B2
Ethyl N-(5-bromopyridine-3-yl)carbamate
To a solution of 5-bromonicotinic acid (20.0 g, 99.0 mmol) in ethanol (300 mL) was added DPPA (21.6 mL, 100.0 mmol) followed by triethylamine (14.3 mL, 103.0 mmol) then refluxed overnight. After cooling, a half amount of solvent was removed by evaporation. The ethanol solution was extracted with ethyl acetate. The organic layer was washed with NaHCO3 (aq) and brine, dried over Na2SO4 then evaporated. Sequence purification on SiO2 column chromatography gave the title compound (4.55 g, 19%): MS m/e 245, 246 (M+1).

reactant | 5-bromonicotinic acid | 99.0 mmol, 20.0 g | BrC=1C=NC=C(C(=O)O)C1 | C6H4BrNO2
reactant | DPPA | 100.0 mmol, 21.6 mL | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 103.0 mmol, 14.3 mL | C(C)N(CC)CC | C6H15N
reactant | ethanol | 300 mL | C(C)O | C2H6O
product | Ethyl N-(5-bromopyridine-3-yl)carbamate | 4.55 g, 19% | BrC=1C=C(C=NC1)NC(OCC)=O | C8H9BrN2O2
